US09340538B2
Methyl 4-((6-(2-bromo-4-fluorophenyl)-5-(ethoxycarbonyl)-2-(thiazol-2-yl)-3,6-dihydropyrimidin-4-yl)methyl)morpholine-3-carboxylate
Ethyl 4-(2-bromo-4-fluorophenyl)-6-(bromomethyl)-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate (1.1 g, 2.2 mmol) was reacted with methyl morpholine-3-carboxylate (0.4 g, 2.2 mmol) according to the procedure as described in Example 24 to give the title compound as a yellow solid (0.62 g, 50%). The compound was characterized by the following spectroscopic data:

reactant | Ethyl 4-(2-bromo-4-fluorophenyl)-6-(bromomethyl)-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate | 2.2 mmol, 1.1 g | BrC1=C(C=CC(=C1)F)C1N=C(NC(=C1C(=O)OCC)CBr)C=1SC=CN1 | C17H14Br2FN3O2S
reactant | methyl morpholine-3-carboxylate | 2.2 mmol, 0.4 g | N1C(COCC1)C(=O)OC | C6H11NO3
product | Methyl 4-((6-(2-bromo-4-fluorophenyl)-5-(ethoxycarbonyl)-2-(thiazol-2-yl)-3,6-dihydropyrimidin-4-yl)methyl)morpholine-3-carboxylate | 0.62 g, 50% | BrC1=C(C=CC(=C1)F)C1C(=C(NC(=N1)C=1SC=CN1)CN1C(COCC1)C(=O)OC)C(=O)OCC | C23H24BrFN4O5S
